US06734301B2
A suspension of tert-butyl 11-formyl-1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indole-3-carboxylate (225 mg, 0.72 mmol) in methanol (5 mL) is cooled to 0° C. and treated with a solution of saturated hydrochloric acid in methanol (3 mL). After 15 min, the yellow homogenous solution is treated with an additional portion of the hydrochloric acid solution and warmed to rt. After 1 hr, the reaction is concentrated under reduced pressure, diluted with 2M sodium hydroxide (15 mL), and extracted twice with dichloromethane (20 mL). The combined organics are washed once with brine (20 mL), dried over MgSO4, filtered, and concentrated to give 165 mg of a crude solid. This material is purified by LC (230-400) silica gel eluting with 10% methanol/dichloromethane to afford 118 mg of 2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole-11-carbaldehyde as an off-white solid. This material is recrystallized form ethyl acetate/heptane to give a light yellow solid, mp 167-168° C. IR (drift) 3307, 2941, 1636, 1464, 1429, 1391, 1367, 1350, 1269, 1205, 1124, 1052, 775, 750, 731 cm−1.

reactant | tert-butyl 11-formyl-1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indole-3-carboxylate | 0.72 mmol, 225 mg | C(=O)C1=C2N(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C18H22N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 3 mL | CO | CH4O
product | 2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole-11-carbaldehyde | 118 mg | C1CNCCN2C1=C(C=1C=CC=CC21)C=O | C13H14N2O
